US06127374
3,N-(N,N-Dimethylaminopropyl)-1,N-ethylcarbodiimide hydrochloride (EDAC.HCl) (385 mg, 2.0 mmol) was added in one portion to a solution of 6-amino-4-(4-benzyloxyanilino)quinazoline (342 mg, 1.0 mmol), acrylic acid (144 mg, 2.0 mmol), and pyridine (163 mg, 2.06 mmol) in THF (10 mL) stirred under nitrogen at 0° C. After 4 hours at 0° C., tlc (10% MeOH/CHCl3) showed considerable SM, so the reaction mixture was stirred at 25° C. for 2 hours. The mixture was recooled to 0° C., and water (2 mL) was added dropwise. This solution was poured onto rapidly stirred ice-water (40 mL), the pH was raised to 7 with saturated Na2CO3 solution, and the very fine ppt was allowed to settle, collected by Buchner filtration, rinsed with water (2×10 mL), and dried in a vacuum oven at 65° C. for 4 hours. The pumpkin organge solid was refluxed and sonicated in CHCl3 -acetone (1:1,40 mL), containing silica gel (5 g). The volatiles were removed under reduced pressure and the residual solid was used as the origin of a silica gel flash chromatography column, eluting with 25% acetone/CHCl3. Removal of the solvent under reduced pressure gave N-(4-[4-benzyloxyanilino]-quinazolin-6-yl)acrylamide (152 mg, 38%) as a bright yellow glass; mp 227-229° C. Calculated for C24H20N4O2C20H16N4O.0.1 HCl: C, 72.04; H, 5.06; N, 14.01%. Found: C, 71.80; H, 4.93: N, 13.80%. 1H NMR (DMSO-d6): δ10.47 (1 H, sl brs), 9.74 (1 H, sl brs), 8.76 (1 H, d, J=1.9 Hz), 8.45 (1 H, s), 7.86 (1 H, dd, J=2.0, 9.0 Hz), 7.74 (1 H, d, J=8.9 Hz), 7.66 (2 H, d, J=9.2 Hz), 7.49 (2 H, t, J=7.2 Hz), 7.41 (2 H, t, J=7.4 Hz), 7.34 (1 H, t, J=7.2 Hz), 7.04 (2 H, d, J=9.2 Hz), 6.53 (1 H, dd, J=10.1, 16.9 Hz), 6.34 (1 H, dd, J=1.9, 16.9 Hz), 5.83 (1 H, dd, J=1.9, 10.1 Hz), 5.13 (2 H, s). Mass spectrum (APCI) 397.2 (100 MH+).

reactant | EDAC.HCl | 2.0 mmol, 385 mg | CCN=C=NCCCN(C)C.Cl
reactant | 6-amino-4-(4-benzyloxyanilino)quinazoline | 1.0 mmol, 342 mg | NC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H18N4O
reactant | acrylic acid | 2.0 mmol, 144 mg | C(C=C)(=O)O | C3H4O2
reactant | pyridine | 2.06 mmol, 163 mg | N1=CC=CC=C1 | C5H5N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(4-[4-benzyloxyanilino]-quinazolin-6-yl)acrylamide | 152 mg, 38% | C(C1=CC=CC=C1)OC1=CC=C(NC2=NC=NC3=CC=C(C=C23)NC(C=C)=O)C=C1 | C24H20N4O2
